US07851465B2
(E)-5,7-Dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (400 mg, 1.65 mmol) was dissolved in anhydrous tetrahydrofuran (5 mL) under a nitrogen atmosphere, cooled to −78° C., then a 1 M solution of potassium tert-butoxide in tetrahydrofuran (1.7 mL, 1.7 mmol) was added dropwise. The reaction mixture was stirred for 10 minutes before a solution of the 2-bromobenzyl bromide (411 mg, 1.65 mmol) in tetrahydrofuran (2 mL) was added dropwise. The mixture was stirred at −78° C. for 20 minutes then the cooling bath removed and the mixture was allowed to warm to ambient temperature and stirred at ambient temperature for 18 hours. piperazine (283 mg, 3.29 mmol) was added to remove excess 2-bromobenzyl bromide and the mixture was stirred at ambient temperature for 30 minutes, diluted with ethyl acetate, and washed with cold 1 M aqueous hydrogen chloride (2×40 mL). The organic layers were dried with sodium sulfate, decanted and concentrated in vacuo to approximately 20 mL of a red liquid. The product was purified on a short pad of silica gel eluting with 100 mL of ethyl acetate:hexanes (1:2) to yield (E)-3-(2-bromobenzyl)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (0.44 g, 65%). 1H NMR (300 MHz, CDCl3) δ 3.40 (s, 3H) 3.75 (m, 2H), 4.15 (m, 1H), 7.05-7.55 (m, 7H).

reactant | (E)-5,7-Dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 1.65 mmol, 400 mg | Cl/C=1/C2=C(N(C(C\N1)=O)C)C=CC(=C2)Cl | C10H8Cl2N2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-bromobenzyl bromide | 1.65 mmol, 411 mg | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | piperazine | 3.29 mmol, 283 mg | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.7 mmol, 1.7 mL | O1CCCC1 | C4H8O
product | (E)-3-(2-bromobenzyl)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.44 g, 65% | BrC1=C(CC2\N=C(/C3=C(N(C2=O)C)C=CC(=C3)Cl)\Cl)C=CC=C1 | C17H13BrCl2N2O
